data/oMe_Silver.jsonl
{"reaction_id": "NR-312_10-[Si](C)(C)C_1-C_2-C(F)(F)F_3-[N+](=O)[O-]_4-Cl_5-C1CCCCC1_6-OC_7-c2nccs2_8-[N+](=O)[O-]_9-c2cnccn2","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(C)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(C1CCCCC1)c1O","c1(OC)c(c2nccs2)c([N+](=O)[O-])c(c2cnccn2)c([Si](C)(C)C)c1I"],"products_smiles": ["c1(C)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(C1CCCCC1)c1Oc2c(OC)c(c2nccs2)c([N+](=O)[O-])c(c2cnccn2)c2([Si](C)(C)C)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(C1CCCCC1)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(OC)c(c2nccs2)c([N+](=O)[O-])c(c2cnccn2)c([Si](C)(C)C)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(OC)c(c2nccs2)c([N+](=O)[O-])c(c2cnccn2)c([Si](C)(C)C)c2[Cu](I)Oc1c(C)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c1(C1CCCCC1)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C)c(C(F)(F)F)c([N+](=O)[O-])c(Cl)c(C1CCCCC1)c1Oc2c(OC)c(c2nccs2)c([N+](=O)[O-])c(c2cnccn2)c2([Si](C)(C)C)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
{"reaction_id": "NR-321_1-C(C)(C)C_2-c1ccc(OC)cc1_3-CCOC","level": "easy","name": "Williamson Ether Synthesis","reactants_smiles": ["OC(C)(C)C","BrC(c1ccc(OC)cc1)CCOC","[Na][H]"],"products_smiles": ["C(OC(C)(C)C)(c1ccc(OC)cc1)CCOC"],"conditions": "","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(C)(C)C","step_weight": 0,"rationale": "NaH acts as a strong base, abstracting the alcohol proton due to the high acidity of the O–H bond and forming a resonance-stabilized alkoxide anion."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(OC(C)(C)C)(c1ccc(OC)cc1)CCOC","step_weight": 0,"rationale": "The alkoxide, being a strong nucleophile, attacks the electrophilic carbon of the alkyl bromide in an SN2 fashion, favored by the good leaving ability of bromide and minimal steric hindrance."}],"description": "In the Williamson ether synthesis, an alcohol is first deprotonated by a strong base to form an alkoxide, which is a strong nucleophile. This alkoxide then undergoes an SN2 reaction with an alkyl halide, yielding the ether product efficiently under mild conditions."}
